US09107411B2
Stage 2: 6-chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide
6-Chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylic acid (2.74 g, 5.07 mmol, 86% pure) was dissolved in N,N-dimethylformamide (14 ml), and 1-aminocyclopropanecarbonitrile hydrochloride (0.78 g, 6.59 mmol), N-[(1H-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium hexafluorophosphate (2.12 g, 5.07 mmol) and 4-methylmorpholine (1.54 g, 15.2 mmol) were added. The reaction mixture was stirred at room temperature for 16 h and then ethyl acetate was added. The organic phase was washed with hydrochloric acid (1 mol/l) and the aqueous phase was once again extracted with ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution and the portion which was insoluble in both phases was filtered off. The filtercake is triturated with boiling ethyl acetate (15 ml) and the precipitate is washed with warm ethyl acetate. This leaves 2.01 g (74% of theory) of 6-chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide.

reactant | 6-Chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylic acid | 5.07 mmol, 2.74 g | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C19H11ClF6N2O3
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 6.59 mmol, 0.78 g | Cl.NC1(CC1)C#N
reactant | N-[(1H-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium hexafluorophosphate | 5.07 mmol, 2.12 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-methylmorpholine | 15.2 mmol, 1.54 g | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | ClC1=C(C=C2C=C(NC2=C1)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C23H15ClF6N4O2
